US04454134
A mixture of 4.0 g (0.0247 m) of 1-(1-carbamoylethylthio)acetaldoxime, 75 ml of dry acetone, 4.0 g (0.07 m) of methyl isocyanate, and 2 drops of triethylamine was allowed to stand at room temperature, with occasional shaking, for two days. The acetone and excess methyl isocyanate were removed from the product under reduced pressure. The white solid residue was recrystallized from ethanol and then dried at room temperature to give 4.0 g (74% yield) of 1-(1-carbamoylethylthio]acetaldehyde O-(methylcarbamoyl)oxime; melting point=161°-163° C.

reactant | 1-(1-carbamoylethylthio)acetaldoxime | 4.0 g | C(N)(=O)C(C)SC(C)=NO | C5H10N2O2S
reactant | methyl isocyanate | 4.0 g | CN=C=O | C2H3NO
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 1-(1-carbamoylethylthio]acetaldehyde O-(methylcarbamoyl)oxime | 4.0 g, 74% yield | CNC(=O)ON=C(C)SC(C)C(N)=O | C7H13N3O3S
